US06734206B1
Sodium borohydride (4.3 mg, 0.11 mmol) was added to a solution of (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-oxo-but-1-enyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester (42 mg, 0.10 mmol) in CH2Cl2 (1 mL) at 0° C. Methanol (3 drops) was added and the reaction was stirred at rt for 3 h. Aqueous HCl (0.5 M, 5 mL) was added and the mixture was extracted with CH2Cl2 (3×5 mL). The combined organic phase was dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography (0%→5% MeOH/CH2Cl2) to afford 31 mg (73%) of (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-hydroxy-but-1-enyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester.

reactant | Sodium borohydride | 0.11 mmol, 4.3 mg | [BH4-].[Na+]
reactant | (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-oxo-but-1-enyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester | 0.10 mmol, 42 mg | COC(COCCCCN1[C@H](CCC1=O)\C=C\C(CC1=CC(=CC=C1)Cl)=O)=O | C21H26ClNO5
reactant | HCl | 0.5 M, 5 mL | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | Methanol | 3 drops | CO | CH4O
product | (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-hydroxy-but-1-enyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester | 31 mg, 73% | COC(COCCCCN1[C@H](CCC1=O)\C=C\C(CC1=CC(=CC=C1)Cl)O)=O | C21H28ClNO5
